US05089507
2-aminomethyl-4-methyl pyridine
g 2 (0.0169 moles) of 2-cyano-4-methyl pyridine [J. Am. Chem. Soc. 78, 5842-5843 (1956)] dissolved in 400 ml of methanol containing 12% W/W of ammonia, were hydrogenated on 2 g of Ni-Raney at room temperature and 20 psi, until the theoretical amount of hydrogen was consumed.

reactant | 2-cyano-4-methyl pyridine | C(#N)C1=NC=CC(=C1)C | C7H6N2
solvent | methanol | 400 ml | CO | CH4O
solvent | ammonia | N | H3N
catalyst | Ni | 2 g | [Ni] | Ni
product | 2-aminomethyl-4-methyl pyridine | NCC1=NC=CC(=C1)C | C7H10N2
